US05091384
Preparation of N3 -(benzyl)-N8 -(p-toluenesulfonyl)-3,8-diazabicyclo[4.3.0]non-1(6)-ene
1.8 g of N8 -(p-toluenesulfonyl)-3,8-diazabicyclo[4.3.0]non-1(6)-ene, prepared in preparation 8, was dissolved in 30 ml of methanol. 6 ml of 50% aqueous sodium hydroxide solution and 1.5 ml of benzyl bromide were added to the solution and stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure to remove methanol and then extracted with methylene chloride (30 ml×3). It was dried (Na2SO4) and concentrated and then dried under reduced pressure. 2 g of the title compound was obtained (yield 85%).

reactant | N8 -(p-toluenesulfonyl)-3,8-diazabicyclo[4.3.0]non-1(6)-ene | 1.8 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC=2CCNCC2C1)C | C14H18N2O2S
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
reactant | benzyl bromide | 1.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methanol | 30 ml | CO | CH4O
product | (benzyl)-N8 -(p-toluenesulfonyl)-3,8-diazabicyclo[4.3.0]non-1(6)-ene | 2 g, yield 85% | C(C1=CC=CC=C1)C1C=2CN(CC2CCN1)S(=O)(=O)C1=CC=C(C=C1)C | C21H24N2O2S
